US04429126
A solution of 2,4-dichloro-6-ethylquinazoline (10.8 g) in methanol and chloroform (70 ml ) was cooled with ice-water. Ammonia was passed through the reaction mixture for 20 minutes and the mixture was allowed to stand for 18 hours at ambient temperature. The resultant mixture was concentrated under reduced pressure to give a residue, to which was added water and heated to 50°-60° C. with stirring. The precipitates was separated by filtration, washed with hot water and recrystallized from dioxane to give crystalline 4-amino-2-chloro-6-ethylquinazoline (8.3 g). Crystals (0.7 g) of the same compound were obtained by treating the mother liquor in substantially the same manner as mentioned above.

reactant | 2,4-dichloro-6-ethylquinazoline | 10.8 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)CC | C10H8Cl2N2
reactant | Ammonia | N | H3N
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-2-chloro-6-ethylquinazoline | 8.3 g | NC1=NC(=NC2=CC=C(C=C12)CC)Cl | C10H10ClN3
